US09422279B2
To a solution of ethyl 5-phenyl-3,6-dihydro-2H-pyran-4-carboxylate (1.05 g, 4.52 mmol) in THF (20 mL) was added LiAlH4 (1M in THF, 5.42 mL, 5.42 mmol) at −20° C., the reaction was stirred at −20° C. for 30 min, and was quenched with Sat. NH4Cl, the aqueous layer was extracted with EtOAc, the combined organics were washed with brine, dried and concentrated to give crude oil, which was purified by column (Hexanes/EtOAc=100:0 to 35:65) to give (5-phenyl-3,6-dihydro-2H-pyran-4-yl)methanol (720 mg).

reactant | ethyl 5-phenyl-3,6-dihydro-2H-pyran-4-carboxylate | 4.52 mmol, 1.05 g | C1(=CC=CC=C1)C1=C(CCOC1)C(=O)OCC | C14H16O3
reactant | LiAlH4 | 5.42 mmol, 1M, 5.42 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5-phenyl-3,6-dihydro-2H-pyran-4-yl)methanol | 720 mg | C1(=CC=CC=C1)C1=C(CCOC1)CO | C12H14O2
